US04299965
In carrying out the process of the present invention, an aqueous mixture or orthophenylenediamine and acetic acid is slowly added to a cooled sodium nitrite solution and the reaction carried out for a period of one to three hours at a concentration of from about 12 to about 22 percent by weight concentration of active ingredients. The order of addition of reagents is not important, as long as one reagent is added to the other at a rate sufficient to keep the temperature of the reaction below about 25° C. The reaction is followed by neutralization of the reaction mixture to a pH of 6 to 6.5 with sodium hydroxide. The entire reaction and neutralization process is carried out at low temperature, between 5° C. and 25° C. A precipitate of 1,2,3-benzotriazole is formed, filtered and washed with cold water to yield technical grade product suitable for use in industrial applications.

reactant | orthophenylenediamine | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,2,3-benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
